// Rc Rise Delay - Spectre netlist
simulator lang=spectre
global 0

// Power supply
vdd (vdd 0) vsource type=dc dc=1.8

// Input pulse
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=1n rise=500p fall=500p width=15252.468n period=30504.936n

// RC low-pass filter
r1 (in out) resistor r=74767
c1 (out 0) capacitor c=6.8e-11

// Analysis
tran tran stop=22878.702n errpreset=moderate

// Save outputs
save in out
